US08580805B2
4-(3,5-di-tert-butyl-4-hydroxy-phenyl)-2-methoxy-pyrimidine-5-carboxylic Acid Methylamide
O-methylisourea hydrogensulfate (3.44 g, 20 mmol) was added to a solution of 3-(3,5-di-tert-butyl-4-hydroxy-phenyl)-3-oxo-2-(dimethylamino)methylene]-propanoic acid methyl amide (3.55 g, 9.84 mmol) in 2-propanol (37.5 mL). The suspension was stirred at room temperature for 10 min then a 1 M solution of potassium tert. butoxide in tert. butanol (37.5 mL) was added and the mixture was immersed into a bath maintained at 80° C. and stirred for 4 hours. The reaction mixture was allowed to cool to ambient temperature and was then distributed between dichloromethane (150 mL) and water (75 mL). The organic layer was washed with water (2×50 mL), once with brine (10 mL), dried over magnesium sulfate and evaporated. The residue obtained was dissolved in dichloromethane and flash-chromatographed using DCM, 1:19, 1:9, and 1:3 ethyl acetate-dichloromethane, followed by ethyl acetate as mobile phases. Early fraction eluted 3-(3,5-di-tert-butyl-4-hydroxy-phenyl)-3-oxo-propanoic acid methyl amide, which is the solvolysis product of the starting material; the title compound was eluted using 1:3 ethyl acetate-dichloromethane. The fractions containing the product were evaporated; the residue redissolved in hot DCM, diluted with cyclohexane then heated to remove some DCM and allowed to crystallize. The solids obtained were redissolved in ethyl acetate, the solution filtered, concentrated, diluted with cyclohexane and allowed to crystallize to give white crystals. The solids were filtered off, washed with cyclohexane and hexane, and dried to constant weight at 55° C. and 20 torr to afford 1.20 g of the title compound (32.8% yield). TLC (ethyl acetate), Rf 0.68, 1H-NMR (300 MHz, DMSO-d6) δ 1.40 (9H, s), 2.75 (3H, d, J=3.9 Hz), 3.98 (3H, s), 7.55 (1H, s), 7.69 (2H, s), 8.44 (1H br s), 8.49 (1H, s).

reactant | O-methylisourea hydrogensulfate | 20 mmol, 3.44 g | S(=O)(=O)(O)O.COC(N)=N
reactant | propanoic acid methyl amide | 9.84 mmol, 3.55 g | CNC(CC)=O | C4H9NO
reactant | potassium tert. butoxide | CC(C)([O-])C.[K+]
reactant | water | 75 mL | O | H2O
reactant | 2-propanol | 37.5 mL | CC(C)O | C3H8O
solvent | tert. butanol | 37.5 mL | C(C)(C)(C)O | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 4-(3,5-di-tert-butyl-4-hydroxy-phenyl)-2-methoxy-pyrimidine-5-carboxylic Acid Methylamide | 1.20 g, 32.8% yield | CNC(=O)C=1C(=NC(=NC1)OC)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C21H29N3O3
